US07199243B2
2-methyl-2-(2-methyl-5-piperidin-3-yl-phenoxy)-propionic acid ethyl ester L-tartaric acid salt (155 mg, 0.34 mmol) was dissolved in 50 mL ethyl acetate and washed with 50 mL saturated aqueous NaHCO3. The organic phase was dried over Na2SO4 and concentrated under reduced pressure. The resultant oil was taken up in 2 mL CH2Cl2 and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide (130 mg, 0.68 mmol) and 4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylic acid (98 mg, 0.34 mmol) were added. The reaction was stirred at ambient temperature under nitrogen for 72 h. The reaction was diluted with 100 mL diethyl ether and washed with water (100 mL), 0.5 N HCl (2×100 mL), saturated aqueous NaHCO3 (2×100 mL), dried over Na2SO4 and concentrated under reduced pressure to yield 2-methyl-2-(2-methyl-5-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carbonyl]-piperidin-3-yl}-phenoxy)-propionic acid ethyl ester (179 mg, 91%) as a clear oil.

reactant | 2-methyl-2-(2-methyl-5-piperidin-3-yl-phenoxy)-propionic acid ethyl ester L-tartaric acid salt | 0.34 mmol, 155 mg | C([C@H](O)[C@@H](O)C(=O)O)(=O)O.C(C)OC(C(C)(OC1=C(C=CC(=C1)C1CNCCC1)C)C)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide | 0.68 mmol, 130 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylic acid | 0.34 mmol, 98 mg | CC=1N=C(SC1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C12H8F3NO2S
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-methyl-2-(2-methyl-5-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carbonyl]-piperidin-3-yl}-phenoxy)-propionic acid ethyl ester | 179 mg, 91% | C(C)OC(C(C)(OC1=C(C=CC(=C1)C1CN(CCC1)C(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C30H33F3N2O4S
